US07435742B2
Preparation of (3R)-1-Allyl-3-[[2-(3,4-dimethoxyphenyl)ethyl]-(5-methylfuran-2-ylmethyl)carbamoyloxy]-1-azoniabicyclo[2.2.2]octane bromide
0.300 g (0.7 mmol) of [2-(3,4-Dimethoxyphenyl)ethyl]-(5-methylfuran-2-ylmethyl)carbamic acid (3R)-1-azabicyclo[2.2.2]oct-3-yl ester were dissolved in 5 ml of CHCl3 and 3.5 ml of acetonitrile. To this solution 0.30 ml (0.423 g, 3.5 mmol) of allyl bromide were added and the mixture was stirred during 21 hours at room temperature under N2 atmosphere. Solvents were evaporated. The residue was treated with ether several times to obtain an oil, which was redissolved in CHCl3 and evaporated to dryness to give 0.365 g (94.8%) of the title product.

reactant | [2-(3,4-Dimethoxyphenyl)ethyl]-(5-methylfuran-2-ylmethyl)carbamic acid (3R)-1-azabicyclo[2.2.2]oct-3-yl ester | 0.7 mmol, 0.300 g | N12C[C@@H](C(CC1)CC2)OC(N(CC=2OC(=CC2)C)CCC2=CC(=C(C=C2)OC)OC)=O | C24H32N2O5
reactant | allyl bromide | 3.5 mmol, 0.30 ml, 0.423 g | C(C=C)Br | C3H5Br
solvent | CHCl3 | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | acetonitrile | 3.5 ml | C(C)#N | C2H3N
product | (3R)-1-Allyl-3-[[2-(3,4-dimethoxyphenyl)ethyl]-(5-methylfuran-2-ylmethyl)carbamoyloxy]-1-azoniabicyclo[2.2.2]octane bromide | 0.365 g, 94.8% | [Br-].C(C=C)[N+]12C[C@@H](C(CC1)CC2)OC(N(CC=2OC(=CC2)C)CCC2=CC(=C(C=C2)OC)OC)=O | InChI=1S/C27H37N2O5.BrH/c1-5-14-29-15-11-22(12-16-29)26(19-29)34-27(30)28(18-23-8-6-20(2)33-23)13-10-21-7-9-24(31-3)25(17-21)32-4;/h5-9,17,22,26H,1,10-16,18-19H2,2-4H3;1H/q+1;/p-1/t22?,26-,29?;/m0./s1
